US08138217B2
1-(ethoxycarbonyl)-3-[(4-chloromethyl-benzoyl)amino]-1H-thieno[2,3-c]pyrazole-5-carboxylic acid
5-tert-butyl 1-ethyl 3-[(4-chloromethyl-benzoyl)amino]-1H-thieno[2,3-c]pyrazole-1,5-dicarboxylate (8.2 g) was added to a solution of hydrochloric acid in dioxane (88 mL, 4N solution). The resulting mixture was stirred at 50° C. for 2 hours. Afterward, volatiles were removed by evaporation under reduced pressure and the residue triturated with diethyl ether, filtered, extensively washed with diethyl ether and dried under vacuum at 40° C. to give 5.7 g of the title compound, used in the next step without further purification.

reactant | 5-tert-butyl 1-ethyl 3-[(4-chloromethyl-benzoyl)amino]-1H-thieno[2,3-c]pyrazole-1,5-dicarboxylate | 8.2 g | ClCC1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OCC)SC(=C3)C(=O)OC(C)(C)C)C=C1 | C21H22ClN3O5S
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 4N, 88 mL | O1CCOCC1 | C4H8O2
product | 1-(ethoxycarbonyl)-3-[(4-chloromethyl-benzoyl)amino]-1H-thieno[2,3-c]pyrazole-5-carboxylic acid | 5.7 g | C(C)OC(=O)N1N=C(C2=C1SC(=C2)C(=O)O)NC(C2=CC=C(C=C2)CCl)=O | C17H14ClN3O5S
